US05998433
b) Synthesis of 6-(4-chlorophenyl)-1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)hexan-1-one hydrochloride
6-(4-Chlorophenyl)-1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)hexan-1-one 0.528 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This solution was concentrated and washed with diethyl ether to yield the desired product.

reactant | 6-(4-Chlorophenyl)-1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)hexan-1-one | 0.528 g | ClC1=CC=C(C=C1)CCCCCC(=O)N1CC2=C(CC1)C=C(O2)CN(C)C | C22H29ClN2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(4-chlorophenyl)-1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)hexan-1-one hydrochloride | Cl.ClC1=CC=C(C=C1)CCCCCC(=O)N1CC2=C(CC1)C=C(O2)CN(C)C | InChI=1S/C22H29ClN2O2.ClH/c1-24(2)15-20-14-18-12-13-25(16-21(18)27-20)22(26)7-5-3-4-6-17-8-10-19(23)11-9-17;/h8-11,14H,3-7,12-13,15-16H2,1-2H3;1H
